US06919404B2
(4-Vinyl-phenyl)-carbamic acid tert-butyl ester, Pre-Functionalized Addition Monomer 1
To an ice cooled solution of 4-vinyl aniline (4 g, 33.6 mmol), triethylamine (3.72 g, 36.8 mmol) and 5 crystals of BHT in anhydrous tetrahydrofuran (40 ml) was added solid di-tertbutyldicarbonate (8.0 g, 36.7 mmol). The reaction was stirred at room temperature for 17.5 h, at which time 100 ml of 1 M HCl was added and the solution extracted with 3×100 ml ethyl acetate. The combined organic layers were washed with 100 ml portions of water, 5% sodium hydrogen carbonate, water and brine and then dried with magnesium sulfate and concentrated. The material was recrystallized using 10% ethyl acetate in hexane, filtering while hot to remove insoluble byproducts, to give 3.0 g white solid, >99% pure by HPLC. H1 NMR (CDCl3): 7.34 (s, 5H), 6.67 (dd, 1H, J=10.7, 17.5 Hz), 6.54 (bs, 1H), 5.67 (dd, 1H, J=1.0, 17.6 Hz), 5.18 (dd, 1H. J=1.0, 10.8 Hz), 1.53 (s, 9H).

reactant | 4-vinyl aniline | 33.6 mmol, 4 g | C(=C)C1=CC=C(N)C=C1 | C8H9N
reactant | triethylamine | 36.8 mmol, 3.72 g | C(C)N(CC)CC | C6H15N
reactant | di-tertbutyldicarbonate | 36.7 mmol, 8.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 M, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (4-Vinyl-phenyl)-carbamic acid tert-butyl ester | 3.0 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C=C)=O | C13H17NO2
